US07923573B2
[4′-({3-Hydroxy-4-(trifluoromethyl)-2-[(2,2,2-trifluoro-1-methylethoxy)carbonyl]benzyl}oxy)-1,1′-biphenyl-4-yl]acetic acid (Exemplification Compound No.: 1-126)
According to a method similar to Example (72-1) and Example (13-5), from 2-(allyloxy)-6-{[(4′-{[(allyloxy)carbonyl]methyl}-1,1′-biphenyl-4-yl)oxy]methyl}-3-(trifluoromethyl)benzoic acid (150 mg, 0.29 mmol) and 1,1,1-trifluoro-2-propanol (31 μl, 0.34 mmol), the title compound was obtained as a yellow crystal (68 mg, two-step total yield: 43%).

reactant | 2-(allyloxy)-6-{[(4′-{[(allyloxy)carbonyl]methyl}-1,1′-biphenyl-4-yl)oxy]methyl}-3-(trifluoromethyl)benzoic acid | 0.29 mmol, 150 mg | C(C=C)OC1=C(C(=O)O)C(=CC=C1C(F)(F)F)COC1=CC=C(C=C1)C1=CC=C(C=C1)CC(=O)OCC=C | C29H25F3O6
reactant | 1,1,1-trifluoro-2-propanol | 0.34 mmol, 31 μl | FC(C(C)O)(F)F | C3H5F3O
product | [4′-({3-Hydroxy-4-(trifluoromethyl)-2-[(2,2,2-trifluoro-1-methylethoxy)carbonyl]benzyl}oxy)-1,1′-biphenyl-4-yl]acetic acid | yield: 43% | OC=1C(=C(COC2=CC=C(C=C2)C2=CC=C(C=C2)CC(=O)O)C=CC1C(F)(F)F)C(=O)OC(C(F)(F)F)C | C26H20F6O6
